US05596002
(1RS,2RS)-(7-Chloro-quinolin-4-yl)-(2pyrrolidin-1-yl-cyclohexyl)-amine
3.87 g from 3.6 g of 4,7-dichloroquinoline and 3.06 g of (2-pyrrolidin-1-yl-cyclohexyl)-amine (reaction duration 24 hours at 120° C.); colourless crystals from acetonitrile/ethanol, m.p.: 228°-231° C.

reactant | 4,7-dichloroquinoline | 3.6 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | (2-pyrrolidin-1-yl-cyclohexyl)-amine | 3.06 g | N1(CCCC1)C1C(CCCC1)N | C10H20N2
solvent | acetonitrile ethanol | C(C)#N.C(C)O
product | (1RS,2RS)-(7-Chloro-quinolin-4-yl)-(2pyrrolidin-1-yl-cyclohexyl)-amine | ClC1=CC=C2C(=CC=NC2=C1)NC1C(CCCC1)N1CCCC1 | C19H24ClN3
